US07816391B2
N,N-Dimethylformamide dimethyl acetal (0.587 mL, 4.42 mmol) was added to N-(2-adamantyl)-3-cyclopentyl-3-oxo-propanamide (Intermediate#72), (1.023 g, 3.53 mmol) in 1,4-dioxane (25 mL). The resulting solution was stirred at 100° C. for 2 hours. The resulting mixture was evaporated to dryness to afford (Z)—N-(2-adamantyl)-2-(cyclopentanecarbonyl)-3-dimethylamino-prop-2-enamide (1.210 g, 99%).

reactant | N,N-Dimethylformamide dimethyl acetal | 4.42 mmol, 0.587 mL | COC(N(C)C)OC | C5H13NO2
reactant | N-(2-adamantyl)-3-cyclopentyl-3-oxo-propanamide | 3.53 mmol, 1.023 g | C12C(C3CC(CC(C1)C3)C2)NC(CC(=O)C2CCCC2)=O | C18H27NO2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (Z)—N-(2-adamantyl)-2-(cyclopentanecarbonyl)-3-dimethylamino-prop-2-enamide | 1.210 g, 99% | C12C(C3CC(CC(C1)C3)C2)NC(\C(=C/N(C)C)\C(=O)C2CCCC2)=O | C21H32N2O2
